US07786132B2
1-(2-(4-(5-(4-Methoxyphenyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
A mixture of 1-(2-(4-(5-bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one (30 mg, 0.08 mmol), 4-ethylphenylboronic acid (16 mg, 0.1 mmol), tetrakis(triphenyl-phosphine)palladium (9 mg, 0.008 mmol) and 2 M sodium carbonate (0.08 mL, 0.16 mmol) in 1,2-dimethoxyethane (3 mL) was heated at 150° C. for 25 min in a Personal Chemistry microwave reactor. Upon cooling, the mixture was filtered through celite and washed with ethyl acetate. Solvent was removed under vacuum and the product was purified by column chromatography eluting with MeOH/CH2Cl2 (1:20) to yield a slight yellow solid (18, mg, 56%). MS (M+H)+ 396.

reactant | 1-(2-(4-(5-bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.08 mmol, 30 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NCC1)=O | C13H14BrN5OS
reactant | 4-ethylphenylboronic acid | 0.1 mmol, 16 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | sodium carbonate | 0.16 mmol, 2 M, 0.08 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
product | 1-(2-(4-(5-(4-Methoxyphenyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | COC1=CC=C(C=C1)C1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NCC1)=O | C20H21N5O2S
